US05939451
0.62 g (0.0019 mol) of 4-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 10 ml of ethanol, treated with 1.67 g (0.025 mol) of methylamine hydrochloride and 6.2 ml (0.044 mol) of triethylamine and stirred in an autoclave at 140° C. for 18 hours. The mixture was freed completely from solvent, the residue was partitioned in ethyl acetate/water and the insoluble constituents were filtered off under suction. The filter cake was recrystallized in methanol/diethyl ether. There was obtained 0.28 g (45%) of N-(2,6-bis-methylamino-pyrimidin-4-yl)-4-chloro-benzenesulfonamide as white crystals; m.p. 272-273° C.

reactant | 4-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.0019 mol, 0.62 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H10Cl2N4O2S
reactant | methylamine hydrochloride | 0.025 mol, 1.67 g | Cl.CN
reactant | triethylamine | 0.044 mol, 6.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(2,6-bis-methylamino-pyrimidin-4-yl)-4-chloro-benzenesulfonamide | 0.28 g, 45% | CNC1=NC(=CC(=N1)NS(=O)(=O)C1=CC=C(C=C1)Cl)NC | C12H14ClN5O2S
